US06380156B1
N-tert-Butoxycarbonyl-D-allo-isoleucine (17).
A solution of D-allo-isoleucine (120 mg, 0.916 mmol) was dissolved in water (2.5 mL) and 1N NaOH (1.83 mL) and stirred at rt for 48 h. Di-tert-butyl dicarbonate (200 mg, 0.916 mmol) in dioxane (5,00 mL) was added to the stirred mixture at 0° C. After 12 h the dioxane was evaporated, the aqueous residue washed with Et2O, mixed with EtOAc, and the rapidly stirred mixture acidified with 2 N H2SO4 at 0° C. This solution was extracted with EtOAc. and the combined organic extracts were dried (Na2SO4) and coned in vacuo to a crystalline material (179 mg, 85%); mp 35-37° C. (Lit.28 34-36° C.); [α]29D −42.7° (c 2.04, CHCl3), [Lit.28 [α]27D−40.7° (c 2.06, CHCl3]); 1H NMR (300 MHz. CDCl3) δ 5.52 (br s, 1H), 3.72-3.54 (m, 1H), 1.92-2.01 (m, 1H), 1.43 (s, 9H). 1.37-1.12 (m, 3H), 0.97 (t, 3H), 0.93 (d, 3H); FABMS 463.2 (2M+H), 232.1 (M+H), 132.1 M−Boc); HRFABMS Calcd for C: 1H21NO4(M+H) 232.1551, Found 232.1548.

reactant | D-allo-isoleucine | 0.916 mmol, 120 mg | N[C@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | NaOH | 1N, 1.83 mL | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 0.916 mmol, 200 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 2.5 mL | O | H2O
solvent | dioxane | 5,00 mL | O1CCOCC1 | C4H8O2
product | N-tert-Butoxycarbonyl-D-allo-isoleucine | C(C)(C)(C)OC(=O)N[C@H]([C@@H](C)CC)C(=O)O | C11H21NO4
